US07709479B1
A solution of 4-(methylthio)-6-methoxy-7-hydroxyquinazoline (2.28 g, 10.3 mmol) and pyridine (0.91 ml) in dichloromethane (20 ml) was slowly added to a solution of triflic anhydride (1.9 ml, 11.3 mmol) in dichloromethane (20 ml) at 0° C. The mixture was stirred at 0° C. for 40 minutes, hydrochloric acid (0.5 N, 50 ml) was then added, and the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulphate and evaporated in vacuo. Purification by flash chromatography on silica gel, eluting with 1:1 isohexane:ethyl acetate, yielded 4-(methylthio)-6-methoxy-7-(trifluoromethanesulphonyloxy)-quinazoline (3.04 g, 80% yield):

reactant | 4-(methylthio)-6-methoxy-7-hydroxyquinazoline | 10.3 mmol, 2.28 g | CSC1=NC=NC2=CC(=C(C=C12)OC)O | C10H10N2O2S
reactant | pyridine | 0.91 ml | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 11.3 mmol, 1.9 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 0.5 N, 50 ml | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(methylthio)-6-methoxy-7-(trifluoromethanesulphonyloxy)-quinazoline | 3.04 g, 80% yield | CSC1=NC=NC2=CC(=C(C=C12)OC)OS(=O)(=O)C(F)(F)F | C11H9F3N2O4S2
